US04962102
39.8 g (0.2 mol) of 2,4-dichloro-5-nitrothiazole are dissolved in 500 ml of acetone and, after addition of 90 g (0.6 mol) of sodium iodide, the mixture is stirred at room temperature for about 6 days, the progress of the reaction being monitored by gas chromatography The solvent is then stripped off in vacuo and the residue is stirred into water, filtered off, washed with water and dried. A substance mixture which, according to analysis by gas chromatography, contains 71.5% of 2-iodo-4-chloro-5-nitrothiazole and 25.8% of 2-chloro-4-iodo-5-nitrothiazole is obtained. HPLC (=high pressure liquid chromatography) chromatographic separation gave the pure substances with the following melting points:

reactant | 2,4-dichloro-5-nitrothiazole | 0.2 mol, 39.8 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
reactant | sodium iodide | 0.6 mol, 90 g | [I-].[Na+]
reactant | water | O | H2O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 2-chloro-4-iodo-5-nitrothiazole | 25.8% | ClC=1SC(=C(N1)I)[N+](=O)[O-] | C3ClIN2O2S
